2124-12-25 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-12-24**] 01:09 PM
 MULTI LUMEN - START [**2124-12-24**] 01:10 PM
 BLOOD CULTURED - At [**2124-12-24**] 01:57 PM
 URINE CULTURE - At [**2124-12-24**] 08:00 PM
 STOOL CULTURE - At [**2124-12-25**] 03:41 AM
   -Temporarily on Levophed o/n
   -D/C'd Lasix gtt @ 5:25 [**1-8**] decreased UOP and electrolyte changes
   -K 3.6 tolerated in AM, HD Pending
   Patient reports that he is cold this morning and has continuing
   testicular discomfort.
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2124-12-25**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 80 (79 - 96) bpm
   BP: 118/40(62) {84/34(44) - 118/46(62)} mmHg
   RR: 18 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    407 mL
                                                                    287 mL
   PO:
                                                                    120 mL
                                                                    140 mL
   TF:
   IVF:
                                                                    287 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    132 mL
                                                                     84 mL
   Urine:
                                                                    132 mL
                                                                     84 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.26/42/107/18/-7
   Physical Examination
   General: Slow to answer but awake, oriented, no acute distress
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, RIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: S1 & S2 regular without murmur
   Abdomen:  distended, but non-tender, hyperactive bs
   Ext: anasarca, wwp, able to move all extremities
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   54 mg/dL
   5.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   95 mg/dL
   110 mEq/L
   140 mEq/L
   25.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
   WBC
   18.0
   18.6
   Hct
   26.1
   25.7
   Plt
   293
   281
   Cr
   5.5
   5.6
   TCO2
   19
   20
   Glucose
   57
   54
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:8.0 mg/dL
   Imaging: CXR [**12-24**]
   IMPRESSION:
   1. Increased right pleural effusion, now large.
   2. Repeat non-rotated radiograph recommended to better assess right
   mediastinal contour.
   3. Atelectasis and/or pneumonia involving lingula and left lower lobe.
   Microbiology: [**12-24**] UCx, BCx, SCx pending
   Assessment and Plan
   This is a 64 M w/ pmh of stage IV CK, 3 recent UGI bleeds in the
   setting of duodenal ulcers, recent tx for MSSA endocarditis w/ 3+ AR,
   recent cardioversion for afib w/ rvr, transferred to [**Hospital1 54**] for
   consideration of CVVH in the setting of hypotension and likely
   continuing septic physiology.
   # Hypotension: Hypotensive/Normotensive o/n.  Likely septic physiology
   given WBC count 18 from 27 on the 14^th & cdiff +.  Otherwise afebrile.
   Levophed briefly overnight
   - hold BP meds for now
   - will continue vanc/zosyn for and d/c if cx neg X 48 hrs.
   - continue treating cdiff w/ po vanco as below
   - TTE today
   - Midodrine 5mg PO TID for pressor support during HD/CVVH
   - Continue levophed as needed
   # C. diff colitis: Currently being treated w/ po vanc (D1 = [**12-13**]).  Has
   a history of chronic diarrhea of unknown etiology.
   - continue po vanc X 14 after last day of broad-spectrum antibiotics
   ([**12-24**])
   - trend WBC count/ stool output
   # Acute renal failure on chronic renal failure:  His baseline cr was
   2.6 on admission to [**Hospital1 3335**].  Cr now 5.6 on transfer with anasarca.
   ATN with nephrotic syndrome (Alb 0.7).
   - Renal consult for CVVH vs HD
   - Renal to place line, consider DDAVP prior to line placement
   - renal diet
   - nephrocaps
   - phos binders given phos of 7.7
   # Hypoxia: h/o smoking so likely has some underlying COPD.  Likely a
   component of volume overload/pulmonary edema given renal failure.
   - continue ipratropium nebs
   - CVVH vs HD as above
   # Enterobacter clocae UTI: Per OSH, blood cx from [**12-16**] w/ NGTD.  D/C
   Cipro after 11 day course
   - Contact OSH Micro lab for sensitivity data
   - send UA/cx
   .
   # DVT: R superficial femoral vein thrombosis [**First Name8 (NamePattern2) **] [**Hospital1 3335**] report.  Is
   very high risk for recurrent GI bleed.
   -          D/C heparin ggt until stable HD line in place
   -          Restart heparin 24-48 hourts
   # Afib: Currently in sinus.  Status post cardioversion on [**12-20**] in the
   setting of hypotension.  Has been on heparin ggt and amio was started
   to prevent recurrent afib.  Likley afib occurred in the seting of
   septic shock from ? cdiff.
   - will d/c amio for now
   - D/C heparin given recent GI Bleeds until planned restart as above
   # Anemia: Macrocytic. Had an upper GI bleed during his last [**Hospital1 54**]
   hospitalization and 2 additional GI bleeds at [**Hospital1 3335**] requiring 6 U
   PRBC.  This may also be c/b B12 deficiency as it appears that his B12
   level was low in [**4-13**].
   - re-check B12/Folate
   - guiac stools
   - transfuse for hct < 21
   # Decubitus ulcers: Stage 1 sacral decubitus ulcer.
   - wound consult
   # DM: BS well-controlled w/o insulin coverage at [**Hospital1 3335**].
   - trend for now
   - add insulin SS if needed
   # Bipolar disorder/Schizophrenia: continue valproic acid, wellbutrin,
   seroquel, lamictal
   # GERD: continue pantoprazole 40 mg [**Hospital1 **] given h/o duodenal ulcers and
   GI bleed during last [**Hospital1 54**] hospitalization
   # Hyperlipidemia: continue simvastatin
   # BPH: hold terazosin as has a foley in place
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: P Boots, VRE carrier, known cdiff +
   # Access:
   1- Right IJ line (placed [**2124-12-16**]) - will request PICC and d/c
   2- Right radial A-line (placed [**2123-12-21**]) - will d/c if not needed
   # Code: Full with
limited duration of intubation
   # Communication: Patient and HCP Ms. [**First Name8 (NamePattern2) 7543**] [**Last Name (NamePattern1) 2288**] cell ([**Telephone/Fax (1) 7545**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   Multi Lumen - [**2124-12-24**] 01:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-12-25 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-12-24**] 01:09 PM
 MULTI LUMEN - START [**2124-12-24**] 01:10 PM
 BLOOD CULTURED - At [**2124-12-24**] 01:57 PM
 URINE CULTURE - At [**2124-12-24**] 08:00 PM
 STOOL CULTURE - At [**2124-12-25**] 03:41 AM
   -Temporarily on Levophed o/n
   -D/C'd Lasix gtt @ 5:25 [**1-8**] decreased UOP and electrolyte changes
   -K 3.6 tolerated in AM, HD Pending
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2124-12-25**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 80 (79 - 96) bpm
   BP: 118/40(62) {84/34(44) - 118/46(62)} mmHg
   RR: 18 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    407 mL
                                                                    287 mL
   PO:
                                                                    120 mL
                                                                    140 mL
   TF:
   IVF:
                                                                    287 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    132 mL
                                                                     84 mL
   Urine:
                                                                    132 mL
                                                                     84 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.26/42/107/18/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   54 mg/dL
   5.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   95 mg/dL
   110 mEq/L
   140 mEq/L
   25.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
   WBC
   18.0
   18.6
   Hct
   26.1
   25.7
   Plt
   293
   281
   Cr
   5.5
   5.6
   TCO2
   19
   20
   Glucose
   57
   54
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:8.0 mg/dL
   Imaging: CXR [**12-24**]
   IMPRESSION:
   1. Increased right pleural effusion, now large.
   2. Repeat non-rotated radiograph recommended to better assess right
   mediastinal contour.
   3. Atelectasis and/or pneumonia involving lingula and left lower lobe.
   Microbiology: [**12-24**] UCx, BCx, SCx pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   Multi Lumen - [**2124-12-24**] 01:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-12-25 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-12-24**] 01:09 PM
 MULTI LUMEN - START [**2124-12-24**] 01:10 PM
 BLOOD CULTURED - At [**2124-12-24**] 01:57 PM
 URINE CULTURE - At [**2124-12-24**] 08:00 PM
 STOOL CULTURE - At [**2124-12-25**] 03:41 AM
   -Temporarily on Levophed o/n
   -D/C'd Lasix gtt @ 5:25 [**1-8**] decreased UOP and electrolyte changes
   -K 3.6 tolerated in AM, HD Pending
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2124-12-25**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 80 (79 - 96) bpm
   BP: 118/40(62) {84/34(44) - 118/46(62)} mmHg
   RR: 18 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    407 mL
                                                                    287 mL
   PO:
                                                                    120 mL
                                                                    140 mL
   TF:
   IVF:
                                                                    287 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    132 mL
                                                                     84 mL
   Urine:
                                                                    132 mL
                                                                     84 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.26/42/107/18/-7
   Physical Examination
   General: Groggy and slow to answer but awake, oriented, no acute
   distress
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, RIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  distended, but non-tender, hyperactive bs
   Ext: anasarca, wwp, able to move all extremities
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   54 mg/dL
   5.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   95 mg/dL
   110 mEq/L
   140 mEq/L
   25.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
   WBC
   18.0
   18.6
   Hct
   26.1
   25.7
   Plt
   293
   281
   Cr
   5.5
   5.6
   TCO2
   19
   20
   Glucose
   57
   54
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:8.0 mg/dL
   Imaging: CXR [**12-24**]
   IMPRESSION:
   1. Increased right pleural effusion, now large.
   2. Repeat non-rotated radiograph recommended to better assess right
   mediastinal contour.
   3. Atelectasis and/or pneumonia involving lingula and left lower lobe.
   Microbiology: [**12-24**] UCx, BCx, SCx pending
   Assessment and Plan
   This is a 64 M w/ pmh of stage IV CK, 3 recent UGI bleeds in the
   setting of duodenal ulcers, recent tx for MSSA endocarditis w/ 3+ AR,
   recent cardioversion for afib w/ rvr, transferred to [**Hospital1 54**] for
   consideration of CVVH in the setting of hypotension and likely
   continuing septic physiology.
   # Hypotension: Hypotensive/Normotensive o/n.  Likely septic physiology
   given WBC count 18 from 27 on the 14^th & cdiff +.  Otherwise afebrile.
   Levophed briefly overnight
   - hold BP meds for now
   - will continue vanc/zosyn for and d/c if cx neg X 48 hrs.
   - continue treating cdiff w/ po vanco as below
   # C. diff colitis: Currently being treated w/ po vanc (D1 = [**12-13**]).  Has
   a history of chronic diarrhea of unknown etiolgy.
   - continue po vanc X 14 after last day of broad-spectrum antibiotics
   ([**12-24**])
   - trend WBC count/ stool output
   - stool cx
   # Acute renal failure on chronic renal failure:  His baseline cr was
   2.6 on admission to [**Hospital1 3335**].  Cr now 5.6 on transfer with anasarca.
   ATN with nephrotic syndrome (Alb 0.7).
   - Renal consult for CVVH vs HD
   - renal diet
   - nephrocaps
   - phos binders given phos of 7.7
   # Hypoxia: h/o smoking so likely has some underlying COPD.  Likely a
   component of volume overload/pulmonary edema given renal failure.
   - continue ipratropium nebs
   - CVVH vs HD as above
   # Enterobacter clocae UTI: Per OSH, blood cx from [**12-16**] w/ NGTD.  D/C
   Cipro after 11 day course
   - Contact OSH Micro lab for sensitivity data
   - send UA/cx
   .
   # DVT: R superficial femoral vein thrombosis [**First Name8 (NamePattern2) **] [**Hospital1 3335**] report.  Is
   very high risk for recurrent GI bleed.
   -          D/C heparin ggt
   -          Likely IVC filter placement
   # Afib: Currently in sinus.  Status post cardioversion on [**12-20**] in the
   setting of hypotension.  Has been on heparin ggt and amio was started
   to prevent recurrent afib.  Likley afib occurred in the seting of
   septic shock from ? cdiff.
   - will d/c amio for now
   - D/C heparin given recent GI Bleeds
   # Anemia: Macrocytic. Had an upper GI bleed during his last [**Hospital1 54**]
   hospitalization and 2 additional GI bleeds at [**Hospital1 3335**] requiring 6 U
   PRBC.  This may also be c/b B12 deficiency as it appears that his B12
   level was low in [**4-13**].
   - re-check B12/Folate
   - guiac stools
   - transfuse for hct < 21
   # Decubitus ulcers: Stage 1 sacral decubitus ulcer.
   - wound consult
   # DM: BS well-controlled w/o insulin coverage at [**Hospital1 3335**].
   - trend for now
   - add insulin SS if needed
   # Bipolar disorder/Schizophrenia: continue valproic acid, wellbutrin,
   seroquel, lamictal
   # GERD: continue pantoprazole 40 mg [**Hospital1 **] given h/o duodenal ulcers and
   GI bleed during last [**Hospital1 54**] hospitalization
   # Hyperlipidemia: continue simvastatin
   # BPH: hold terazosin as has a foley in place
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: P Boots, VRE carrier, known cdiff +
   # Access:
   1- Right IJ line (placed [**2124-12-16**]) - will request PICC and d/c
   2- Right radial A-line (placed [**2123-12-21**]) - will d/c if not needed
   # Code: Full with
limited duration of intubation
   # Communication: Patient and HCP Ms. [**First Name8 (NamePattern2) 7543**] [**Last Name (NamePattern1) 2288**] cell ([**Telephone/Fax (1) 7545**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   Multi Lumen - [**2124-12-24**] 01:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-12-26 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/C'ed IJ placed at [**Hospital1 3335**]
   - PICC line placed by IV team
   - Changed Lamotrigine to 37.5mg [**Hospital1 **] per pharm
   - Attempted to get culture data from [**Hospital1 3335**], however the medical
   records dept closed today - try again tomorrow ([**Telephone/Fax (1) 7573**]
   - Plan to restart heparin drip after HD line placed
   - Unable to start CVVH as line unable to be placed, renal will try
   again tomorrow
   - Replaced 2gm of Calcium
 MULTI LUMEN - STOP [**2124-12-25**] 02:47 PM
 PICC LINE - START [**2124-12-25**] 02:52 PM
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-25**] 11:59 PM
   Dextrose 50% - [**2124-12-26**] 05:15 AM
   Morphine Sulfate - [**2124-12-26**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 98 (77 - 100) bpm
   BP: 102/52(65) {89/33(46) - 102/52(65)} mmHg
   RR: 21 (9 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,061 mL
                                                                    269 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    356 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                     30 mL
   Urine:
                                                                    195 mL
                                                                     30 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -134 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   365 K/uL
   9.3 g/dL
   63 mg/dL
   6.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   98 mg/dL
   111 mEq/L
   142 mEq/L
   28.7 %
   24.0 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
                             [**2124-12-26**]  03:00 AM
   WBC
   18.0
   18.6
   24.0
   Hct
   26.1
   25.7
   28.7
   Plt
   293
   281
   365
   Cr
   5.5
   5.6
   6.0
   TCO2
   19
   20
   Glucose
   57
   54
   63
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   PICC Line - [**2124-12-25**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-12-26 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/C'ed IJ placed at [**Hospital1 3335**]
   - PICC line placed by IV team
   - Changed Lamotrigine to 37.5mg [**Hospital1 **] per pharm
   - Attempted to get culture data from [**Hospital1 3335**], however the medical
   records dept closed today - try again tomorrow ([**Telephone/Fax (1) 7573**]
   - Plan to restart heparin drip after HD line placed
   - Unable to start CVVH as line unable to be placed, renal will try
   again tomorrow
   - Replaced 2gm of Calcium
 MULTI LUMEN - STOP [**2124-12-25**] 02:47 PM
 PICC LINE - START [**2124-12-25**] 02:52 PM
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-25**] 11:59 PM
   Dextrose 50% - [**2124-12-26**] 05:15 AM
   Morphine Sulfate - [**2124-12-26**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 98 (77 - 100) bpm
   BP: 102/52(65) {89/33(46) - 102/52(65)} mmHg
   RR: 21 (9 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,061 mL
                                                                    269 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    356 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                     30 mL
   Urine:
                                                                    195 mL
                                                                     30 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -134 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General: Slow to answer but awake, oriented, no acute distress
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, RIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: S1 & S2 regular without murmur
   Abdomen:  distended, but non-tender, hyperactive bs
   Ext: anasarca, wwp, able to move all extremities
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   365 K/uL
   9.3 g/dL
   63 mg/dL
   6.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   98 mg/dL
   111 mEq/L
   142 mEq/L
   28.7 %
   24.0 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
                             [**2124-12-26**]  03:00 AM
   WBC
   18.0
   18.6
   24.0
   Hct
   26.1
   25.7
   28.7
   Plt
   293
   281
   365
   Cr
   5.5
   5.6
   6.0
   TCO2
   19
   20
   Glucose
   57
   54
   63
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
   This is a 64 M w/ pmh of stage IV CK, 3 recent UGI bleeds in the
   setting of duodenal ulcers, recent tx for MSSA endocarditis w/ 3+ AR,
   recent cardioversion for afib w/ rvr, transferred to [**Hospital1 54**] for
   consideration of CVVH in the setting of hypotension and likely
   continuing septic physiology.
   # Hypotension: Hypotensive/Normotensive o/n.  Likely septic physiology
   given WBC count 18 from 27 on the 14^th & cdiff +.  Otherwise afebrile.
   Levophed briefly overnight
   - hold BP meds for now
   - will continue vanc/zosyn for and d/c if cx neg X 48 hrs.
   - continue treating cdiff w/ po vanco as below
   - TTE today
   - Midodrine 5mg PO TID for pressor support during HD/CVVH
   - Continue levophed as needed
   # C. diff colitis: Currently being treated w/ po vanc (D1 = [**12-13**]).  Has
   a history of chronic diarrhea of unknown etiology.
   - continue po vanc X 14 after last day of broad-spectrum antibiotics
   ([**12-24**])
   - trend WBC count/ stool output
   # Acute renal failure on chronic renal failure:  His baseline cr was
   2.6 on admission to [**Hospital1 3335**].  Cr now 5.6 on transfer with anasarca.
   ATN with nephrotic syndrome (Alb 0.7).
   - Renal consult for CVVH vs HD
   - Renal to place line, consider DDAVP prior to line placement
   - renal diet
   - nephrocaps
   - phos binders given phos of 7.7
   # Hypoxia: h/o smoking so likely has some underlying COPD.  Likely a
   component of volume overload/pulmonary edema given renal failure.
   - continue ipratropium nebs
   - CVVH vs HD as above
   # Enterobacter clocae UTI: Per OSH, blood cx from [**12-16**] w/ NGTD.  D/C
   Cipro after 11 day course
   - Contact OSH Micro lab for sensitivity data
   - send UA/cx
   .
   # DVT: R superficial femoral vein thrombosis [**First Name8 (NamePattern2) **] [**Hospital1 3335**] report.  Is
   very high risk for recurrent GI bleed.
   -          D/C heparin ggt until stable HD line in place
   -          Restart heparin 24-48 hourts
   # Afib: Currently in sinus.  Status post cardioversion on [**12-20**] in the
   setting of hypotension.  Has been on heparin ggt and amio was started
   to prevent recurrent afib.  Likley afib occurred in the seting of
   septic shock from ? cdiff.
   - will d/c amio for now
   - D/C heparin given recent GI Bleeds until planned restart as above
   # Anemia: Macrocytic. Had an upper GI bleed during his last [**Hospital1 54**]
   hospitalization and 2 additional GI bleeds at [**Hospital1 3335**] requiring 6 U
   PRBC.  This may also be c/b B12 deficiency as it appears that his B12
   level was low in [**4-13**].
   - re-check B12/Folate
   - guiac stools
   - transfuse for hct < 21
   # Decubitus ulcers: Stage 1 sacral decubitus ulcer.
   - wound consult
   # DM: BS well-controlled w/o insulin coverage at [**Hospital1 3335**].
   - trend for now
   - add insulin SS if needed
   # Bipolar disorder/Schizophrenia: continue valproic acid, wellbutrin,
   seroquel, lamictal
   # GERD: continue pantoprazole 40 mg [**Hospital1 **] given h/o duodenal ulcers and
   GI bleed during last [**Hospital1 54**] hospitalization
   # Hyperlipidemia: continue simvastatin
   # BPH: hold terazosin as has a foley in place
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: P Boots, VRE carrier, known cdiff +
   # Access:
   1- Right IJ line (placed [**2124-12-16**]) - will request PICC and d/c
   2- Right radial A-line (placed [**2123-12-21**]) - will d/c if not needed
   # Code: Full with
limited duration of intubation
   # Communication: Patient and HCP Ms. [**First Name8 (NamePattern2) 7543**] [**Last Name (NamePattern1) 2288**] cell ([**Telephone/Fax (1) 7545**]
   # Disposition: ICU for now
 IMPAIRED SKIN INTEGRITY
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   PICC Line - [**2124-12-25**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-12-26 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/C'ed IJ placed at [**Hospital1 3335**]
   - PICC line placed by IV team
   - Changed Lamotrigine to 37.5mg [**Hospital1 **] per pharm
   - Attempted to get culture data from [**Hospital1 3335**], however the medical
   records dept closed today - try again tomorrow ([**Telephone/Fax (1) 7573**]
   - Plan to restart heparin drip after HD line placed
   - Unable to start CVVH as line unable to be placed, renal will try
   again tomorrow
   - Replaced 2gm of Calcium
   - On rounds patient became acutely diaphoretic and pale, less
   responsive and hypotensive to the 60s.  He was given fluids and
   subsequently intubated.  Renal was consulted to place HD line with
   extra port for fluids. His family was called to the hospital where the
   decision was made to make the patient CMO.
 MULTI LUMEN - STOP [**2124-12-25**] 02:47 PM
 PICC LINE - START [**2124-12-25**] 02:52 PM
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-25**] 11:59 PM
   Dextrose 50% - [**2124-12-26**] 05:15 AM
   Morphine Sulfate - [**2124-12-26**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 98 (77 - 100) bpm
   BP: 102/52(65) {89/33(46) - 102/52(65)} mmHg
   RR: 21 (9 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,061 mL
                                                                    269 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    356 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                     30 mL
   Urine:
                                                                    195 mL
                                                                     30 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -134 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General: Slow to answer, lethargic, responds to voice commands
   HEENT: Sclera anicteric, dry MM, oropharynx clear, appears pale,
   diaphoretic
   Neck: supple, dressing on right
   Lungs: b/l rales
   CV: S1 & S2 regular without murmur
   Abdomen:  distended, but non-tender, hyperactive bs
   Ext: generalized anasarca to scrotum, wwp, able to move all extremities
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   365 K/uL
   9.3 g/dL
   63 mg/dL
   6.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   98 mg/dL
   111 mEq/L
   142 mEq/L
   28.7 %
   24.0 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
                             [**2124-12-26**]  03:00 AM
   WBC
   18.0
   18.6
   24.0
   Hct
   26.1
   25.7
   28.7
   Plt
   293
   281
   365
   Cr
   5.5
   5.6
   6.0
   TCO2
   19
   20
   Glucose
   57
   54
   63
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
   This is a 64 M w/ pmh of stage IV CK, 3 recent UGI bleeds in the
   setting of duodenal ulcers, recent tx for MSSA endocarditis w/ 3+ AR,
   recent cardioversion for afib w/ rvr, transferred to [**Hospital1 54**] for
   consideration of CVVH in the setting of hypotension and likely
   continuing septic physiology.
   # Hypotension: Hypotensive/Normotensive o/n.  Likely septic physiology
   given WBC count 18 from 27 on the 14^th & cdiff +.  Otherwise afebrile.
   Levophed briefly overnight
   -d/c all meds and make patient CMO
   # C. diff colitis: Currently being treated w/ po vanc (D1 = [**12-13**]).  Has
   a history of chronic diarrhea of unknown etiology.
   - d/c abx
   - CMO
   # Acute renal failure on chronic renal failure:  His baseline cr was
   2.6 on admission to [**Hospital1 3335**].  Cr now 5.6 on transfer with anasarca.
   ATN with nephrotic syndrome (Alb 0.7).
   -stop CVVH and make CMO
   # Hypoxia: h/o smoking so likely has some underlying COPD.  Likely a
   component of volume overload/pulmonary edema given renal failure.
   -Morphine as needed
   # Enterobacter clocae UTI: Per OSH, blood cx from [**12-16**] w/ NGTD.  D/C
   Cipro after 11 day course
   -CMO
   .
   # DVT: R superficial femoral vein thrombosis [**First Name8 (NamePattern2) **] [**Hospital1 3335**] report.  Is
   very high risk for recurrent GI bleed.
   -          Hold all anticoag
   # Afib: Currently in sinus.  Status post cardioversion on [**12-20**] in the
   setting of hypotension.  Has been on heparin ggt and amio was started
   to prevent recurrent afib.  Likley afib occurred in the seting of
   septic shock from ? cdiff.
   -morphine as needed for comfort
   # Anemia: Macrocytic. Had an upper GI bleed during his last [**Hospital1 54**]
   hospitalization and 2 additional GI bleeds at [**Hospital1 3335**] requiring 6 U
   PRBC.  This may also be c/b B12 deficiency as it appears that his B12
   level was low in [**4-13**].
   - re-check B12/Folate
   - guiac stools
   - transfuse for hct < 21
   # Decubitus ulcers: Stage 1 sacral decubitus ulcer.
   - wound consult
   # DM: BS well-controlled w/o insulin coverage at [**Hospital1 3335**].
   -stop fingersticks
   # Bipolar disorder/Schizophrenia: hold meds
   # GERD: continue pantoprazole 40 mg [**Hospital1 **] given h/o duodenal ulcers and
   GI bleed during last [**Hospital1 54**] hospitalization
   # Hyperlipidemia: continue simvastatin
   # BPH: hold terazosin as has a foley in place
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: P Boots, VRE carrier, known cdiff +
   # Access:
   2- Right radial A-line (placed [**2123-12-21**]) - will d/c if not needed
   # Code: Full with
limited duration of intubation
   # Communication: Patient and HCP Ms. [**First Name8 (NamePattern2) 7543**] [**Last Name (NamePattern1) 2288**] cell ([**Telephone/Fax (1) 7545**]
   # Disposition: ICU for now
 IMPAIRED SKIN INTEGRITY
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   PICC Line - [**2124-12-25**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: